US04375477
To a solution of 2 mmole of beta-difluoromethyl beta-alanine in 5 ml of 1 N sodium hydroxide at 0° C. are added simultaneously from two syringes 160 mg of acetyl chloride diluted in 1 ml of dioxane and 2 ml of 1 N sodium hydroxide. After 30 minutes at 0° C. the solution is acidified by the addition of 6 N hydrochloric acid, then extracted well with dichloromethane. The organic phase is dried and concentrated to afford 3-difluoromethyl-3-(1-oxo-ethylamino) propionic acid.

reactant | beta-difluoromethyl beta-alanine | 2 mmole | FC(C(N)CC(=O)O)F | C4H7F2NO2
reactant | acetyl chloride | 160 mg | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sodium hydroxide | 1 N, 5 ml | [OH-].[Na+]
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
product | 3-difluoromethyl-3-(1-oxo-ethylamino) propionic acid | FC(C(CC(=O)O)NC(C)=O)F | C6H9F2NO3
